US07037908B2
2,6-Difluoro-N-hydroxy-N-methyl-benzamidine.
To a stirred solution of 2,6-difluorobenzonitrile (5.565 g, 40 mmol) and N-methylhydroxylamine hydrochloride (10 g, 120 mmol) in 4:1 water/ethanol (100 mL) was added sodium carbonate (8.5 g, 80 mmol) in small portions and the resulting mixture stirred at 100° C. for 2 h. The mixture was then cooled, concentrated and the resulting residue suspended in hot MeOH/CHCl3 (1:9, 200 mL). The insoluble solids were removed by filtration and concentration of the filtrate gave the desired product as an off-white solid (7.50 g, 100% yield). 1HNMR (500 MHz, DMSO-d6) δ: 7.69–7.63 (1H, m), 7.29 (2H, t, J=8.24 Hz), 6.90 (2H, s), 3.15 (3H, s). LCMS calcd for C8H9F2N2O (M+H): 187.07; found: 187.12.

reactant | 2,6-difluorobenzonitrile | 40 mmol, 5.565 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | N-methylhydroxylamine hydrochloride | 120 mmol, 10 g | Cl.CNO
reactant | sodium carbonate | 80 mmol, 8.5 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water ethanol | 100 mL | O.C(C)O
product | 2,6-Difluoro-N-hydroxy-N-methyl-benzamidine | 7.50 g, 100% yield | FC1=C(C(=N)N(C)O)C(=CC=C1)F | C8H8F2N2O
